Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
glimepiride
 
Attending: ___
 
Chief Complaint:
fever,shortness of breath
 
Major Surgical or Invasive Procedure:
Intubated ___  
Extubated ___
 
History of Present Illness:
___ y. M with history of CLL (not on treatment), HTN, CKD
(baseline Cr of 1.5) who presented on ___ night with fevers 
to
103. Initial workup was unremarkable. CXR negative. UA negative.
He was started on vancomycin/cefepime empirically awaiting
additional cultures. He has subsequently decompensated and was
transferred to the ___ for hypoxic respiratory failure.  On
___, he was on room air. Since that time, he has had rapidly
progressing hypoxia, requiring titration of NC. Overnight, he
became more short of breath. Repeat CXR shows new effusion and
RLL infiltrate. He then became increasingly tachypneic. and was
placed on 6L NC with nasal CPAP. An ABG on those settings, which
was definitely arterial, which showed ___. For this, he
was put on a nonrebreather.  CXR significant for RML infiltrate
consistent with pneumonia, found to have legionella pneumonia. 
He
was intubated on ___, initially requiring paralysis. He 
was
treated broadly with vancomycin, cefepime, levaquin. Initially,
he had high ventilator settings, with high PEEP and FiO2. Given
his refractory hypoxemia there was a concern for possible shunt
physiology. . TTE this admission did not demonstrate PFO/ASD, 
but
prior TTE demonstrated possible PFO. With the addition of
Veletri, his oxygenation improved significantly and his
ventilatory support was weaned. He underwent bronchoscopy on 
___
which returned negative for other infectious etiologies. In
conjunction with infectious disease, he was subsequently 
narrowed
to levofloxacin alone with a planned three week course for
treatment. Given his concurrent acute renal failure, he was
initiated on CRRT for volume removal. He improved and was
extubated on ___. He was weaned off levophed on ___. 
Paralytics
were d/c'ed on ___. 
He developed acute anuric renal failure thought to be secondary
to ATN. Renal ultrasound without abnormalities. He was initiated
on CRRT on ___ via a right temporary dialysis line. Due to
concerns that volume overload may be contributing to his
respiratory failure, volume was removed via CRRT. He had some
mild hypotension in the setting of fluid removal, for which he
required intermittent levophed. CRRT ended on ___. At the
time of his transfer from the ICU to the floor, he was beginning
to make urine, with a plan for intermittent HD as necessary 
until
his kidney function recovered.
His urine output was as follows:
___ 400
___ 150
___ 200
___ 100
___ 200
___ 200
___ 325
His creatinine rose from 1.5 to peak at 4.3.
In terms of his CLL he had some mild elevations in uric acid
which was concerning for possible tumor lysis syndrome, although
his LDH was stable and other electrolytes WNL. He was initiated
on allopurinol which was later discontinued given his
deterioration in renal function. He was also given a dose of
rasbicurase. In conjunction with his outpatient oncologist,
treatment of his CLL is being considered, but should be deferred
until the resolution of the acute infection. At the
recommendation of his oncologist, he should receive IVIG if IgG 
<
500, although IgG> 500 as measured this hospitalization.
He also developed acute toxic metabolic encephalopathy. ___ and
___, patient had significant anxiety and delirium,
which was managed with Seroquel (not a home medication).
Upon call out to the floor he developed a brief episode of
vertigo when he was placed in ___ to be repositioned
which resolved upon upright posture. He denied further vertigo 
at
the time of examination. He denies chest pain, shortness of
breath. He is concerned about nausea but denies nausea 
currently.
He has a flexiseal in place for loose stool but his cdiff was
negative. He did not report diarrhea to me. He tells me that his
breathing is much better. Per RN he ate soup and crackers and 
has
a good intake of po fluids. His weight has decreased from 116 kg
to 105.8. His LOS fluid balance is -5855. He was continued on
glargine ___s SSI.  Overnight he is maintained on 
CPAP
on room air with 12cm H2O pressure. His CPAP machine was
interrogated by respiratory and he has used it for 8 hours since
___. 
.
A ten point review of systems is otherwise negative except as
above. 
.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Oncologic history: Rai stage I CLL, diagnosed in ___ when
he was referred to Hematology for evaluation of lymphocytosis. 
At the time of his diagnosis, flow cytometry revealed a kappa
light chain restricted B-cell lymphoproliferative process that
expressed CD20 (dim), CD5, and
CD23.  Cytogenetics indicated trisomy 12 in ___ nuclei.
Not yet treated, being monitored.

PAST MEDICAL HISTORY:
PMH/PSX:
- CLL, as above
- Hypertension
- Hyperlipidemia
- Type 2 diabetes
- Sleep apnea
- Renal insufficiency
- Obesity
- Tobacco abuse
- Depression
- HSV with recurrent outbreaks on scalp 

 
Social History:
___
Family History:
Mother died of ovarian cancer at ___. Father died
___ ___. Brother alive with ___
 
Physical Exam:
Exam on transfer out of ICU
98.7, HR 98, 107/68, 24, 92% on 4L NC
Last fever ___
CONS: Mildly diaphoretic, otherwise, NAD. He looks very well
considering how sick he was described to be. He is not in
respiratory distress and speaking in full sentences. 
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
flexiseal in place
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent. Able to follow commands and
lift all extremities off of the bed. 
PSYCH: calm, cooperative  
LAD: No 
NECK: NO HJR. JVP could not be assess due to presence of HD line
on R. 

Discharge exam:
VS: 98.5, 104 / 71, 96, 95% on RA 
CONS: very pleasant elderly male sitting up in chair in NAD
HEENT: MMM,NCAT, EOMI, anicteric sclera   
NECK: prior temp HD line site covered with dressing without any
active bleeding, TTP
CV: RRR, nml S1 and S2, no m/r/g  
RESP: Lungs largely CTAB, unlabored respirations, speaking full 
sentences  
GI: soft, NTND, normoactive bowel sounds
GU: no flexiseal
MSK: no c/c/e 2+pulses  
SKIN: no rash  
NEURO: AOx3, face symmetric speech fluent. Able to follow 
commands and lift all extremities off of the bed. No asterixis.  
HINTS exam negative.
PSYCH: calm, cooperative 

 
Pertinent Results:
ADMISSION:
___ 01:26PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:26PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 01:26PM URINE  HYALINE-1*
___ 11:17AM   LACTATE-1.2
___ 11:00AM   GLUCOSE-120* UREA N-32* CREAT-1.9* SODIUM-136 
POTASSIUM-4.9 CHLORIDE-101 TOTAL CO2-17* ANION GAP-23*
___ 11:00AM   ALT(SGPT)-8 AST(SGOT)-16 LD(LDH)-415* ALK 
PHOS-223* TOT BILI-0.4
___ 11:00AM   LIPASE-14
___ 11:00AM   ALBUMIN-4.0 URIC ACID-11.1*
___ 11:00AM   WBC-229.7* RBC-3.94* HGB-10.9* HCT-38.4* 
MCV-98 MCH-27.7 MCHC-28.4* RDW-17.8* RDWSD-56.0*
___ 11:00AM   NEUTS-9* BANDS-0 LYMPHS-91* MONOS-0 EOS-0 
BASOS-0 ___ MYELOS-0 AbsNeut-20.67* AbsLymp-209.03* 
AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 11:00AM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-OCCASIONAL 
OVALOCYT-OCCASIONAL TEARDROP-OCCASIONAL
___ 11:00AM   PLT SMR-NORMAL PLT COUNT-188
___ 10:56AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

INTERVAL LABS:
___ 08:07AM BLOOD IgG-1302
___ 09:51PM BLOOD HIV Ab-Negative
___ 07:40AM BLOOD HCV Ab-Negative
___ 01:07AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 02:01PM STOOL NoroGI-NEGATIVE NoroGII-NEGATIVE

___ 07:40AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative

___ 09:00AM BLOOD Glucose-120* UreaN-95* Creat-5.1* Na-137 
K-4.6 Cl-94* HCO3-24 AnGap-24*
___ 09:00AM BLOOD WBC-222.5* RBC-3.24* Hgb-8.6* Hct-30.8* 
MCV-95 MCH-26.5 MCHC-27.9* RDW-16.2* RDWSD-53.8* Plt ___
___ 09:00AM BLOOD Calcium-8.7 Phos-9.4* Mg-2.3

IMAGING:
Bilateral lower extremity ultrasound ___  
No evidence of deep vein thrombosis in the bilateral upper 
extremity veins.  Superficial thrombosis in the left cephalic 
vein (mid to distal forearm) and in the right median cubital 
vein 

TTE ___
No atrial septal defect or patent foramen ovale is seen by 2D, 
color Doppler or saline contrast with maneuvers.

Renal Us
IMPRESSION: 
Normal renal ultrasound, noting limited views of the left 
kidney.

MICROBIOLOGY:
___ Blood cultures x 2 negative
___ Urine culture negative 

___ Respiratory culture negative

___ Blood culture negative
___ Urine culture negative
___ Urine Legionella urinary antigen POSITIVE

___ 8:36 pm BRONCHOALVEOLAR LAVAGE
   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary): 
      No Cytomegalovirus (CMV) isolated. 

   CYTOMEGALOVIRUS EARLY ANTIGEN TEST (SHELL VIAL METHOD) (Final 
___: 
      Negative for Cytomegalovirus early antigen by 
immunofluorescence. 
      Refer to culture results for further information.

___ 8:36 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      10,000-100,000 CFU/mL Commensal Respiratory Flora. 

   LEGIONELLA CULTURE (Final ___:    NO LEGIONELLA 
ISOLATED. 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

___ 8:36 pm Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 

___ MRSA screen negative

___ Blood cultures x 2 pending
___ Sputum culture negative

___ C. diff negative

___ Mini-BAL 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 

___ Blood cultures x 2 negative

___ Urine culture negative

DISCHARGE:
___ 06:35AM BLOOD WBC-208.4* RBC-3.13* Hgb-8.5* Hct-30.6* 
MCV-98 MCH-27.2 MCHC-27.8* RDW-16.6* RDWSD-57.0* Plt ___
___ 06:35AM BLOOD Glucose-83 UreaN-64* Creat-3.7* Na-138 
K-4.4 Cl-99 HCO3-24 AnGap-19
___ 06:35AM BLOOD Calcium-8.6 Phos-5.3* Mg-1.7
 
Brief Hospital Course:
The patient is a ___ year old male with PMHx CLL, admission for 
influenza in ___ who was admitted with fevers and 
tachycardia then developed hypoxic respiratory failure and ARDS 
found to have Legionella PNA, course further complicated by 
anuric ___ (now improved).

# HYPOXIC RESPIRATORY FAILURE ___
# Legionella PNA
Patient initially required intubation for hypoxic respiratory 
failure.  Patient found to have RLL infiltrate on chest imaging 
for which he was initially treated with vanc/cefepime.  However, 
he was found to have a positive Legionella urine antigen and was 
subsequently transitioned to levofloxacin.  Per ID consult team, 
plan is for a total 3 week course of levofloxacin (last day on 
___.  Patient also developed concurrent acute anuric renal 
failure, requiring CRRT in the medical ICU and required a single 
HD session on ___ hypoxia may have also been related to a 
component of volume overload in the setting of his renal 
failure.  He has been weaned to RA currently.  

# ACUTE RENAL FAILURE
The patient developed anuric ___.  ___ felt to be related to 
septic ATN.  He had no evidence of AIN based on his urine 
sediment.  Patient required CRRT in the FICU
for voume overload and rising potassium and last underwent a 
single session of HD on ___.  Since ___, he began to 
experience UOP and his renal function has stabilized with clear 
signs of recovery.  He has been having stable UOP (~1.5L) daily 
and with stable electrolytes.  Per Renal, he has no further need 
for HD and will continue outpatient management.  Of note, his 
PPD is negative.  Will need to be maintained on a low K/Phos 
renal diet pending further improvement of his renal function; no 
need for a fluid restriction at time of discharge.  BUN/Cr on 
day of discharge 64/3.7 (improved from BUN/Cr ___ during this 
hospitalization).

# Transaminitis
Patient with persistently and stably elevated alk phos.  He has 
had no obstructive
symptoms/abdominal pain concerning for biliary obstruction; FFT 
is wnl and RUQ US shows no evidence of obstruction.  Likely 
related to his untreated CLL.

# BPPV
Resolved.  No focal deficits on neurologic exam so no suspicion 
for central process at this time.  Resolved at time of 
discharge.  Meclizine was not administered in the setting of his 
renal dysfunction. 

# CLL: Not currently on treatment. Initially, some mild 
elevations in uric acid lead to some concern for tumor lysis 
syndrome, although his LDH was stable and other electrolytes 
WNL. He was initiated on allopurinol which was later 
discontinued given his deterioration in renal function. In 
conjunction with his outpatient oncologist, treatment of his CLL 
is being considered, but should be deferred until the resolution 
of the acute infection. At the recommendation of his oncologist, 
he should receive IVIG if IgG < 500, although IgG> 500 as 
measured this hospitalization.

# DIABETES MELLITUS
Decreased home levemir to 10u QHS given some asymptomatic 
hypoglycemia earlier during his hospitalization.  His home 
metformin was held given his renal dysfunction.

# HLD 
Home statin and gemfibrozil held in the setting of his elevated 
alk phos.

# DEPRESSION:
Continued on home venlafaxine

# HTN:
Home lisinopril held in setting ___

# TOXIC METABOLIC ENCEPHALOPATHY:
Resolved.  Likely ___ acute illness (Legionella) and metabolic 
derangements related to renal failure during his ICU 
hospitalization.  Resolved while on the medical floor.

# DIARRHEA
Resolved.  Cdiff negative.

***TRANSITIONAL ISSUES***
- PPD negative
- Home lisinopril and metformin held in the setting of his renal 
dysfunction
- Home gemfibrozil and statin held in the setting of his alk 
phos elevation (continue to monitor as outpatient)
- Patient to follow-up with his primary oncologist for ongoing 
management of his CLL (untreated, not a new diagnosis, WBC has 
been stably in the 180s-240s over the past year)
- Patient to follow-up with his new nephrologist Dr. ___ 
at ___ within 2 weeks
- Please check Chem10 every 2 days and make sure that all 
medications are renally dosed (in particular levofloxacin)
- Anticipated end date of levofloxacin is ___ (total 21 day 
course)
- HCP is brother, Dr. ___ (___).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gemfibrozil 600 mg PO BID 
2. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
3. Lisinopril 10 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Levemir (insulin detemir) 20 Units subcutaneous QHS 
6. Viagra (sildenafil) 50 mg oral DAILY:PRN 
7. Simvastatin 40 mg PO QPM 
8. Venlafaxine XR 150 mg PO BID 
9. fluorouracil 0.5 % topical BID:PRN 
10. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN Skin 
Lesions 
11. Zolpidem Tartrate 5 mg PO QHS:PRN Insomnia 
12. Ascorbic Acid ___ mg PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 
14. Cinnamon (cinnamon bark) 500 mg oral DAILY:PRN 
15. Fish Oil (Omega 3) ___ mg PO DAILY 
16. Sodium Bicarbonate 650 mg PO BID 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Levofloxacin 750 mg PO Q48H 
Last dose on ___  
4.  Multivitamins W/minerals 1 TAB PO DAILY  
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  Sarna Lotion 1 Appl TP QID:PRN Itch  
7.  Thiamine 100 mg PO DAILY  
8.  TraZODone 50 mg PO QHS:PRN insomnia  
9.  Levemir 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
10.  Ascorbic Acid ___ mg PO DAILY  
11.  Cinnamon (cinnamon bark) 500 mg oral DAILY:PRN  
12.  Fish Oil (Omega 3) ___ mg PO DAILY  
13.  fluorouracil 0.5 % topical BID:PRN  
14.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN Skin 
Lesions  
15.  Venlafaxine XR 150 mg PO BID  
16.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Septic shock
Legionella pneumonia
Acute renal failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for severe pneumonia and required 
ventilator support. You also developed kidney failure and needed 
dialysis. You were treated with IV antibiotics and fortunately 
your pneumonia and kidney failure has improved.  You will need 
to continue taking an oral antibiotic, levofloxacin, to complete 
a total 3 week course of treatment of ___ pneumonia.  Your 
renal failure has improved such that there are no future plans 
for dialysis.  

Please follow-up with your outpatient providers as instructed 
below.

Thank you for allowing us to participate in your care.  All best 
wishes for your health.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___